US09145437B2
[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-(4-hydroxybenzoyl)-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate
To a 0.5 L stirred round bottom, purged with nitrogen, charge in order: [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-(4-methylindol-1-yl)tetrahydropyran-2-yl]methyl acetate (29.5 mmol), dichloromethane (100 mL), and 4-bromobenzoyl chloride (30.9 mmol). Cool the mixture in an icebath and add aluminum trichloride (88.4 mmol). After stirring, with cooling, for 1.5 hours, pour the reaction mixture over ice and dilute with water (100 mL) and chloroform (100 mL). Separate the organic phase and wash the aqueous with chloroform (100 mL). Combine the organics and wash with concentrated sodium bicarbonate solution (200 mL) and brine (200 mL). Dry over sodium sulphate, filter, and concentrate. Purify by flash chromatography over silica gel (330 g) eluting with 5-25% EtOAc/chloroform to give the title compound (7.9 g; 46.09% yield): mass spectrum (m/z): 582.4 (M+1), 580.4 (M−H).

reactant | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-(4-methylindol-1-yl)tetrahydropyran-2-yl]methyl acetate | 29.5 mmol | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=CC2=C(C=CC=C12)C | C23H27NO9
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | 4-bromobenzoyl chloride | 30.9 mmol | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | aluminum trichloride | 88.4 mmol | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | water | 100 mL | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-(4-hydroxybenzoyl)-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | 7.9 g, 46.09% yield | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)C(C1=CC=C(C=C1)O)=O | C30H31NO11
